US05051423
2-[4-(1H-Imidazol-1-yl)phenoxy]-1,1-dimethylethanamine dihydrochloride
Dissolve 27.0 g (0.106 mol) of N-[-2-[4-(1H-imidazol-1-yl)phenoxy]-1,1-dimethylethyl]acetamide in 270 mL of 2 N of hydrochloric acid and heat to reflux for 18 h. After this time, remove the water on the rotary evaporator and redissolve the residue in 50mL of isopropanol. Remove the isopropanol on a rotary evaporator and suspend the resulting solid in diethyl ether. Filter off the solid to provide the title compound.

reactant | N-[-2-[4-(1H-imidazol-1-yl)phenoxy]-1,1-dimethylethyl]acetamide | 0.106 mol, 27.0 g | N1(C=NC=C1)C1=CC=C(OCC(C)(C)NC(C)=O)C=C1 | C15H19N3O2
reactant | hydrochloric acid | 2 N, 270 mL | Cl | ClH
product | 2-[4-(1H-Imidazol-1-yl)phenoxy]-1,1-dimethylethanamine dihydrochloride | Cl.Cl.N1(C=NC=C1)C1=CC=C(OCC(N)(C)C)C=C1 | InChI=1S/C13H17N3O.2ClH/c1-13(2,14)9-17-12-5-3-11(4-6-12)16-8-7-15-10-16;;/h3-8,10H,9,14H2,1-2H3;2*1H
